### PR TITLE
pickles: the combined inner product, in circuit, proved and CS-matched to OCaml on both sides

### PR DESCRIPTION
**Pull request by martyall**
## Summary

The next scalar-side piece after `ft_eval0` (#325): the combined inner product, the verifier's recomputation of the batched opening's claimed evaluation `∑ⱼ ξʲ fⱼ(ζ) + r·∑ⱼ ξʲ fⱼ(ζω)`.

- **PureScript**: two blocks previously inlined in both verifiers are now library gadgets — `Pickles.PlonkChecks.CombinedInnerProduct.combinedInnerProduct` (the two ξ-Horner folds and their `r`-combination) and `Pickles.IPA.challengePolyEvals` (the previous proofs' challenge polynomials at a point, OCaml's right-to-left order). Each verifier compares the result with the deferred claim as before. The circuit-diffs harness `Cip.purs` only unpacks the dumps' layouts around library gadgets and the shift unshifts, for both sides.
- **OCaml dump** (mina @ `cip-wrap-dump`, submodule bumped): `cip_wrap_circuit`, the Tock twin of `cip_circuit` — no proofs-verified mask, Type2 claim. Defined and dumped last, so a full regeneration reproduces all 344 committed fixture files byte for byte plus the four new ones.
- **Lean**: `Pickles.bPolyCircuit` (promoted from the script, emission order kept) and `Pickles.challengePolyEvals` proved to read as `Bulletproof.bPoly`; `Pickles.combinedInnerProduct` proved to read as `combine(ζ) + r·combine(ζω)` over the kept evaluations and, at the batch's `Kimchi.Verifier.PointEvaluations` rows, as `Bulletproof.combinedInnerProduct` at their evaluation matrix. A batch entry is `BoolVar × FVar` (`true_` for always-present entries, which `selectField` folds to no row); readings are `CircuitType.Reads` entrywise via `List.Forall₂`. Field-generic, standard axioms only, internals `private`.
- **Library additions**: `Kimchi.Verifier.PointEvaluations.toVector`; `Snarky.Type1.fromShiftedCircuit`, the ported `Snarky.Type2` and its `fromShiftedCircuit`, with reading lemmas.
- **CS equality**: `check_cs.lean` gains `cip_step_circuit` and `cip_wrap_circuit` (the wrap column's first pickles sub-circuit); `b_correct_step_circuit` uses the library `bPolyCircuit` and unshift. 37/37 match the PS dumps, which match OCaml's (97/97).

## Notes for review

- `cip_step` and `cip_wrap` are witness-less dumps like the linearization entries: CS-side only.
- Regenerating the OCaml corpus locally reproduces the committed files only when a new circuit is placed last: the dump run shares an internal variable counter across circuits and the labels embed `__LOC__` line numbers. Noted in the dump source.

## Test plan

- [x] `CIRCUIT_DIFFS_WITNESS_EXPORT=1 npx spago test -p pickles-circuit-diffs` — 97/97 incl. `cip_{step,wrap}_circuit matches OCaml`, FOP dumps unchanged
- [x] full `npx spago build` and `--strict --pedantic-packages`; `purs-tidy check`
- [x] OCaml regeneration vs committed corpus: 344 compared, 0 differing
- [x] `lake build` (CI library list), `check-style.sh`, sorry census, `check_axioms` for pickles (9 roots) and snarky, `runLinter` Snarky/Kimchi/Pickles, shake over the CI root list, `deadcode.sh`, `check-readings.sh`
- [x] `lake env lean --run scripts/check_cs.lean` — CS equality OK (37 circuits)

🤖 Generated with [Claude Code](https://claude.com/claude-code)

https://claude.ai/code/session_01HxCCtuPKmcyi5szmMSjTts

### CODE REVIEW

File: packages/pickles/src/Pickles/PlonkChecks/CombinedInnerProduct.purs [hunk 1]
```diff
@@ -172,3 +173,30 @@ buildEvalListUnmasked x =
     evals = map EvalJust $ NEA.fromFoldable1 x.evals
   in
     NEA.concat $ NEA.cons' sgEvals [ others, evals ]
+
+-- | The combined inner product (OCaml `step_verifier.ml` step 11b,
+-- | `wrap_verifier.ml` step 8b):
+-- |
+-- |   combine(zeta) + r * combine(zetaw)
+-- |
+-- | OCaml evaluates `a + r * b` right to left, so the zetaw fold runs first,
```
Comment (martyall) [inline packages/pickles/src/Pickles/PlonkChecks/CombinedInnerProduct.purs]: remove this kind of comment it's not relevant

File: formal/pickles/Pickles/CombinedInnerProduct.lean [hunk 2]
```diff
@@ -0,0 +1,247 @@
...
+import Snarky.DSL.Boolean
+import Kimchi.Protocol.Linearization
+import Bulletproof.Protocol
+
+set_option mvcgen.warning false
+
+/-!
+# The combined inner product in circuit
+
+Port of the PureScript `Pickles.PlonkChecks.CombinedInnerProduct`
```
Comment (martyall) [inline formal/pickles/Pickles/CombinedInnerProduct.lean]: mathlib style comments and docstrings only, this module breaks that guidline several times

File: formal/pickles/Pickles/CombinedInnerProduct.lean [hunk 3]
```diff
@@ -0,0 +1,247 @@
...
+
+/-! ## The batch an evaluation list stands for -/
+
+section Reading
+
+variable (V : Valuation F)
+
+/-- Whether an entry is in the batch under `V`: a present entry always, a masked one when
+its bit reads `1`. -/
+def EvalOpt.kept : EvalOpt F → Bool
```
Comment (martyall) [inline formal/pickles/Pickles/CombinedInnerProduct.lean]: it seems like we should make a separate EvalOpt module

File: formal/pickles/Pickles/CombinedInnerProduct.lean [hunk 4]
```diff
@@ -0,0 +1,247 @@
...
+/-- The batch an evaluation list reads as: the kept entries' values in order, the last
+entry unconditionally, since it seeds the fold. -/
+def readBatch (evals : List (EvalOpt F)) : List F :=
+  match evals.reverse with
+  | [] => []
+  | last :: revFront =>
+    (revFront.reverse.filter (·.kept V)).map (·.value.val V) ++ [last.value.val V]
+
+/-- When the last entry is present, the batch is the kept entries' values. -/
+theorem readBatch_append_just (front : List (EvalOpt F)) (x : FVar F) :
```
Comment (martyall) [inline formal/pickles/Pickles/CombinedInnerProduct.lean]: how is this not private, this is so random

File: formal/pickles/Pickles/CombinedInnerProduct.lean [hunk 5]
```diff
@@ -0,0 +1,247 @@
...
+      hb e (by rw [← List.reverse_reverse evals, hrev]; simp [he])
+    exact hornerGo_spec ξ last.value revFront hb'
+
+/-- Any valuation satisfying the constraints `combinedInnerProduct` emits reads its output
+as `combine(ζ) + r · combine(ζω)`, each the Horner sum of that point's batch. -/
+theorem combinedInnerProduct_spec (ξ r : FVar F) (evalsZeta evalsZetaw : List (EvalOpt F))
+    (hbz : ∀ e ∈ evalsZeta, e.bitLike V) (hbw : ∀ e ∈ evalsZetaw, e.bitLike V) :
+    ⦃⌜True⌝⦄ combinedInnerProduct (c := Builder V c) ξ r evalsZeta evalsZetaw
+    ⦃⇓ a _ => ⌜a.val V = alphaCombo (ξ.val V) (readBatch V evalsZeta)
+      + r.val V * alphaCombo (ξ.val V) (readBatch V evalsZetaw)⌝⦄ := by
```
Comment (martyall) [inline formal/pickles/Pickles/CombinedInnerProduct.lean]: readBatch? How are we still making new ah-hoc Reads instances ???

File: formal/pickles/Pickles/CombinedInnerProduct.lean [hunk 6]
```diff
@@ -0,0 +1,247 @@
...
+/-- `combinedInnerProduct_spec`, read as the wire verifier's combined inner product: with
+the two batches of one length, the output is `Bulletproof.combinedInnerProduct` at the
+two-column evaluation matrix. -/
+theorem combinedInnerProduct_spec_cip (ξ r : FVar F)
+    (evalsZeta evalsZetaw : List (EvalOpt F))
+    (hbz : ∀ e ∈ evalsZeta, e.bitLike V) (hbw : ∀ e ∈ evalsZetaw, e.bitLike V)
+    (hlen : (readBatch V evalsZeta).length = (readBatch V evalsZetaw).length) :
+    ⦃⌜True⌝⦄ combinedInnerProduct (c := Builder V c) ξ r evalsZeta evalsZetaw
+    ⦃⇓ a _ => ⌜a.val V = Bulletproof.combinedInnerProduct (ξ.val V) (r.val V)
+      (fun (i : Fin (readBatch V evalsZeta).length) (j : Fin 2) =>
```
Comment (martyall) [inline formal/pickles/Pickles/CombinedInnerProduct.lean]: does this function not have a name or a grounding in kimchi protocol?

File: formal/pickles/Pickles/IPA.lean [hunk 7]
```diff
@@ -0,0 +1,167 @@
+import Snarky.DSL.Field
+import Bulletproof.Protocol
+
+set_option mvcgen.warning false
+
+/-!
+# The challenge polynomial in circuit
+
+Port of the PureScript `Pickles.IPA.bPolyCircuit`
```
Comment (martyall) [inline formal/pickles/Pickles/IPA.lean]: mathlib style comments and docstrings, this module flagrantly violates that.

File: formal/pickles/Pickles/IPA.lean [hunk 8]
```diff
@@ -0,0 +1,167 @@
...
+  · intro i h1 h2
+    have hi : i < chals.length := by simpa using h2
+    simp only [List.getElem_map, List.getElem_zip, List.getElem_ofFn, List.getElem_reverse,
+      List.length_map, List.length_range, List.getElem_range, List.get_eq_getElem]
+
+/-- The circuit computes `Bulletproof.bPoly` at the readings of the challenges and the
+point. -/
+theorem bPolyCircuit_spec (chals : List (FVar F)) (pt : FVar F) :
+    ⦃⌜True⌝⦄ bPolyCircuit (c := Builder V c) chals pt
+    ⦃⇓ a _ => ⌜a.val V = Bulletproof.bPoly (fun i : Fin chals.length => (chals.get i).val V)
```
Comment (martyall) [inline formal/pickles/Pickles/IPA.lean]: otherwise known as Reads ?

File: formal/scripts/check_cs.lean [hunk 9]
```diff
@@ -591,6 +572,53 @@ def ftEval0CsCircuit {p : ℕ} [Fact p.Prime] (side : Kimchi.Fixture.PS.Side p)
...
+Transcribe `Pickles.CircuitDiffs.PureScript.Cip`: both sides of the check over the dumps'
+layouts — two 16-entry previous-challenge vectors, `ζ`, `ζω`, `ξ`, `r`, `ft_eval0`,
+`ft_eval1`, the public evaluations, and the 43-entry evaluation block at each point — around
+the proved gadgets `Pickles.challengePolyEvals` and `Pickles.combinedInnerProduct`. The step side
+has two proofs-verified mask booleans first and a Type1 claim; the wrap side no mask and a
+Type2 claim. -/
+
+/-- The Type2 unshift constant `2^255` at the wrap field (PS `fromShiftedType2Circuit`:
+`t + 2^n`), constraint-free. -/
+def shift2c : Fq := 2 ^ 255
```
Comment (martyall) [inline formal/scripts/check_cs.lean]: how is this being defined here and not pulled in from somwhere else?

File: packages/pickles/src/Pickles/PlonkChecks/CombinedInnerProduct.purs (hunk 1 above)
Comment (martyall) [reply packages/pickles/src/Pickles/PlonkChecks/CombinedInnerProduct.purs]: Removed. The docstring is now the formula plus the OCaml reference; the evaluation-order note is gone.

File: formal/pickles/Pickles/CombinedInnerProduct.lean (hunk 2 above)
Comment (martyall) [reply formal/pickles/Pickles/CombinedInnerProduct.lean]: Rewritten. Every declaration docstring is one to three declarative sentences; the module docstring is the standard sections without the implementation prose.

File: formal/pickles/Pickles/CombinedInnerProduct.lean (hunk 3 above)
Comment (martyall) [reply formal/pickles/Pickles/CombinedInnerProduct.lean]: Dropped `EvalOpt` altogether instead. An always-present entry is `(true_, x)`: `selectField` with a constant-true selector folds to the branch with no row, so the emitted constraints are identical and an entry is the existing former `BoolVar F × FVar F`. The CS check still passes on both sides.

File: formal/pickles/Pickles/CombinedInnerProduct.lean (hunk 4 above)
Comment (martyall) [reply formal/pickles/Pickles/CombinedInnerProduct.lean]: Gone with `readBatch`; the batch reading is now `List.Forall₂ (CircuitType.Reads V)` over `BoolVar × FVar` entries and `keptEvals` on the read values.

File: formal/pickles/Pickles/CombinedInnerProduct.lean (hunk 5 above)
Comment (martyall) [reply formal/pickles/Pickles/CombinedInnerProduct.lean]: Replaced. Entries are read by `CircuitType.Reads` entrywise (`List.Forall₂`, the RandomOracle idiom), through `reads_prod`/`reads_boolVar`/`reads_fvar`. The `bitLike` hypothesis went with it: `Reads` already says the bit is a bit.

File: formal/pickles/Pickles/CombinedInnerProduct.lean (hunk 6 above)
Comment (martyall) [reply formal/pickles/Pickles/CombinedInnerProduct.lean]: Grounded in the verifier's row type: the matrix is now `(rows.get i).toVector[j]` for `rows : List Kimchi.Verifier.PointEvaluations`, with `PointEvaluations.toVector` added in `Kimchi/Verifier/Kimchi.lean` as the row of the batch's evaluation matrix (what `kimchiVerify` builds at its IPA input). The equal-length hypothesis went too, since both columns come from the same rows.

File: formal/pickles/Pickles/IPA.lean (hunk 7 above)
Comment (martyall) [reply formal/pickles/Pickles/IPA.lean]: Rewritten to Mathlib length, same as the other module.

File: formal/pickles/Pickles/IPA.lean (hunk 8 above)
Comment (martyall) [reply formal/pickles/Pickles/IPA.lean]: Yes. `bPolyCircuit_spec` and `challengePolyEvals_spec` now take `List.Forall₂ (CircuitType.Reads V)` (nested for the challenge vectors) and state the result over the read lists.

File: formal/scripts/check_cs.lean (hunk 9 above)
Comment (martyall) [reply formal/scripts/check_cs.lean]: Moved into the library: `Snarky.Type1.fromShiftedCircuit` and a ported `Snarky.Type2` with `fromShiftedCircuit` in `Snarky/Types/Shifted.lean`, each with its reading lemma. The script's pre-existing `shift1c` went the same way.
